US05707937
N-{4-Chloro-5-[2-(N-ethoxycarbonylmethyl-N-methylaminocarbonyl)-2-chloroethen-1-yl]-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide (compound No. I.17)
6 mmol of carbonyldiimidazole were added dropwise to a solution of 5 mmol of N-[4-chloro-5-(2-hydroxycarbonyl-2-chloroethen-1-yl)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide in 50 ml of absolute tetrahydrofuran, after which stirring was carried out for one hour at about 20° C. 5 mmol of ethyl sarcosine hydrochloride were then added to the reaction mixture. 5 mmol of triethylamine in 5 ml of tetrahydrofuran were then added dropwise. Stirring was carried out for 48 hours at about 20° C., after which the solvent was removed under reduced pressure from a water-jet pump. The residue was taken up in water, after which the product was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and then evaporated down. The crude product was purified by chromatography over silica gel (eluent: 1:2 petroleum ether/methyl tert-butyl ether). Yield: 0.97 g (40%).

reactant | carbonyldiimidazole | 6 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-[4-chloro-5-(2-hydroxycarbonyl-2-chloroethen-1-yl)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | 5 mmol | ClC1=CC(=C(C=C1C=C(Cl)C(=O)O)N1C(C2=C(C1=O)CCCC2)=O)F | C17H12Cl2FNO4
reactant | ethyl sarcosine hydrochloride | 5 mmol | Cl.C(C)N(C)CC(=O)O
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-{4-Chloro-5-[2-(N-ethoxycarbonylmethyl-N-methylaminocarbonyl)-2-chloroethen-1-yl]-2-fluorophenyl}-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1C=C(Cl)C(=O)N(C)CC(=O)OCC)N1C(C2=C(C1=O)CCCC2)=O)F | C22H21Cl2FN2O5
